US04438117
(a) α-Formyl desoxyanisoin
A solution of sodium methoxide (11.9 g, 0.22 mole) in 80 ml ethanol was cooled in an ice bath and treated with ethyl formate (20 ml, 0.24 mole). A solution of desoxyanisoin (51.2 g, 0.2 mole) in 275 ml warm tetrahydrofuran was then added while maintaining the reaction temperature below 5°. The reaction mixture was stirred for 1 hour at 0° and then stirred overnight at room temperature.

reactant | sodium methoxide | 0.22 mole, 11.9 g | C[O-].[Na+]
reactant | ethyl formate | 0.24 mole, 20 ml | C(=O)OCC | C3H6O2
reactant | desoxyanisoin | 0.2 mole, 51.2 g | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | α-Formyl desoxyanisoin | C(=O)C(C(C1=CC=C(OC)C=C1)=O)C1=CC=C(OC)C=C1 | C17H16O4
